US05554746
1-N-Hydroxy-3-(N-benzoylcytosin-1-yl)-4-(4,4'-dimethoxytrityloxymethyl)-2-azetidinone
1-N-Hydroxy-3-(N-benzoylcytosin-1-yl)-4-hydroxymethyl-2-azetidinone (10 mmole) is dissolved in pyridine (20 ml) and 4,4'-dimethoxytrityl chloride (12 mmole) is added and stirred under argon for 8 hours. The reaction mixture is concentrated under reduced pressure. The crude product is purified by flash chromatorgraphy using silica gel and ethyl acetate/dichloromethane/1% triethylamine as eluants to give the title compound.

reactant | 1-N-Hydroxy-3-(N-benzoylcytosin-1-yl)-4-hydroxymethyl-2-azetidinone | 10 mmole | ON1C(C(C1CO)N1C(=O)N=C(NC(C2=CC=CC=C2)=O)C=C1)=O | C15H14N4O5
reactant | 4,4'-dimethoxytrityl chloride | 12 mmole | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-N-Hydroxy-3-(N-benzoylcytosin-1-yl)-4-(4,4'-dimethoxytrityloxymethyl)-2-azetidinone | ON1C(C(C1COC(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=CC=C1)N1C(=O)N=C(NC(C2=CC=CC=C2)=O)C=C1)=O | C36H32N4O7
